US05200415
Synthesis of (R)-(+)-N-(1-azabicyclo[2.2.2]oct-3-yl)-7-methylpyrazolo[1,5-a]pyridine-3-carboxamide
A solution of 166 mg (0.945 mmol) of 7-methyl-3-pyrazolo[1,5-a]pyridinecarboxylic acid in 3 ml of thionyl chloride was heated under reflux for 30 minutes. Thionyl chloride was distilled off under reduced pressure and the residue was dissolved in 5 ml of methylene chloride. The resultant solution was added dropwise under ice cooling to a solution of 200 mg (1 mmol) of (R)-(+)-1-azabicyclo[2.2.2]octan-3-amine, which had been prepared in accordance with the procedure disclosed in Japanese Patent Application Laid-Open No. 196583/1988, in 5 ml of methylene chloride. The resultant mixture was stirred for 30 minutes under ice cooling and for additional 40 minutes at room temperature. 2N aq. NaOH solution was added to the reaction mixture and, after the mixture so obtained was stirred for 10 minutes, the organic layer was collected. Further, the water layer was extracted with methylene chloride and the extract was dried over anhydrous potassium carbonate. Methylene chloride was distilled off under reduced pressure, and the residue was purified by chromatography on a silica gel column (chloroform:methanol=10:1, 5:1). An oily substance thus obtained was dissolved in ethyl acetate. The solvent was distilled off under reduced pressure, and crystals thus obtained were washed with ether, whereby 207 mg (0.73 mmol) of the title compound were obtained as white crystals (yield: 77.0%).

reactant | 7-methyl-3-pyrazolo[1,5-a]pyridinecarboxylic acid | 0.945 mmol, 166 mg | CC1=CC=CC=2N1N=CC2C(=O)O | C9H8N2O2
reactant | (R)-(+)-1-azabicyclo[2.2.2]octan-3-amine | 1 mmol, 200 mg | N12C[C@@H](C(CC1)CC2)N | C7H14N2
reactant | NaOH | 2N | [OH-].[Na+]
solvent | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-(+)-N-(1-azabicyclo[2.2.2]oct-3-yl)-7-methylpyrazolo[1,5-a]pyridine-3-carboxamide | 0.73 mmol, 207 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C=2C=NN1C2C=CC=C1C | C16H20N4O
